US06660738B2
A mixture of 2 g (3.85 mmol)(2S,4R)-2-(2,4,5-Trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidine, 1.2 g (7.7 mmol) 2-chloro5-n-propylpyrimidine, 1.98 ml (11.55 mmol) N-ethyldiisopropylamine and a catalytic amount of copper(I) iodide was heated for 10 h at 80° C. The reaction was cooled and partitioned between H2O/Et2O (3×300). The organic phases were washed with aqueous saturated NaHCO3, aqueous 10% NaCl, dried (NaSO4) and evaporated. Flash chromatography on silica gel (toluene/Et2O 99:1) gave 2 g (81%) (2S,4R)-5-Propyl-2-[2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine, MS: 640 (MH+).

reactant | (2S,4R)-2-(2,4,5-Trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidine | 3.85 mmol, 2 g | FC1=C(COC[C@H]2NC[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C(=C1)F)F | C31H28F3NOS
reactant | 2-chloro5-n-propylpyrimidine | 7.7 mmol, 1.2 g | ClC1=NC=C(C=N1)CCC | C7H9ClN2
reactant | N-ethyldiisopropylamine | 11.55 mmol, 1.98 ml | C(C)N(C(C)C)C(C)C | C8H19N
catalyst | copper(I) iodide | [Cu]I
product | (2S,4R)-5-Propyl-2-[2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine | 2 g, 81% | C(CC)C=1C=NC(=NC1)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COCC1=C(C=C(C(=C1)F)F)F | C38H36F3N3OS
